US08535974B2
Synthesis of 3,3′-((2,7-bis(naphthalen-1-yl(phenyl)amino)-9H-fluorene-9,9-diyl)bis(butane-4,1-diyl))dibenzaldehyde
To 1-liter three-neck round bottom flask equipped with a magnetic stir bar and an addition funnel was transferred a solution of 9,9-bis(4-(3-(1,3-dioxolan-2-yl)phenyl)butyl)-N2,N7-di(naphthalen-1-yl)-N2,N7-diphenyl-9H-fluorene-2,7-diamine (12.3 g) in acetone (500 mL). Hydrochloric acid solution (61.0 mL, 2.0M) was transferred to the addition funnel atop the reaction flask by syringe. The acid solution was added to the reaction dropwise with vigorous stirring. The reaction was allowed to stir for an additional 30 minutes following the addition of acid. Reaction completion was confirmed by thin-layer chromatography and solvent was removed by rotary evaporation. Ethyl acetate (750 mL) was added to the resulting mixture and this solution was washed with DI water (5×200 mL). The organic fraction was collected and dried over anhydrous magnesium sulfate. Solids were removed by gravity filtration. Silica gel was added to the solution and solvent was removed by rotary evaporation leaving the crude material adsorbed to silica. Crude product was initially purified by flash column chromatography using ethyl acetate/hexane as an eluent. The resulting material was dissolved in a minimum amount of acetone and precipitated into cold methanol (3×750 mL). The solids collected by vacuum filtration were dried and determined to be pure product by NMR.

reactant | 9,9-bis(4-(3-(1,3-dioxolan-2-yl)phenyl)butyl)-N2,N7-di(naphthalen-1-yl)-N2,N7-diphenyl-9H-fluorene-2,7-diamine | 12.3 g | O1C(OCC1)C=1C=C(C=CC1)CCCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)CCCCC1=CC(=CC=C1)C1OCCO1 | C71H64N2O4
reactant | Hydrochloric acid | 2.0M, 61.0 mL | Cl | ClH
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 3,3′-((2,7-bis(naphthalen-1-yl(phenyl)amino)-9H-fluorene-9,9-diyl)bis(butane-4,1-diyl))dibenzaldehyde | C1(=CC=CC2=CC=CC=C12)N(C1=CC=2C(C3=CC(=CC=C3C2C=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)(CCCCC=1C=C(C=O)C=CC1)CCCCC=1C=C(C=O)C=CC1)C1=CC=CC=C1 | C67H56N2O2
